US04567201
A mixture of ethyl 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-bromobenzoate (1.50 g), ethanol (15 ml) and 1N sodium hydroxide (10 ml) was refluxed for 0.5 hour, then concentrated, acidified with concentrated hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water and dried over sodium sulfate, the solvent was distilled off, and the residue was chromatographed on a column of silica gel (50 g), and eluted with a solution of chloroform-acetone-formic acid (9:1:0.1). Recrystallization from ethyl acetate gave 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-bromobenzoic acid as colorless needles (1.06 g). Melting point 180°-182° C.

reactant | ethyl 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-bromobenzoate | 1.50 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)OCC)C=C2)Br)C=C1)CCC)O | C23H27BrO6
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-bromobenzoic acid | 1.06 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Br)C=C1)CCC)O | C21H23BrO6
